US07691863B2
Sodium hydride (0.96 g, 23.7 mmol) was added in portions to a solution of cyclobutanemethanol (2.2 mL, 23.7 mmol) in tetrahydrofuran (30 mL) at 0° C., the reaction mixture was stirred at room temperature for 45 minutes. A solution of 2-amino-3,5-dibromopyrazine (3.0 g, 11.9 mmol) in tetrahydrofuran (10 mL) was added and the reaction mixture was heated at 50° C. for 16 hours. The reaction mixture was cooled to room temperature and water (2 mL) was added, the whole was then concentrated in vacuo to give a brown oil. The crude product was purified by flash column chromatography (100% dichloromethane) to give 5-bromo-3-cyclobutylmethoxy-pyrazin-2-ylamine as a pale yellow solid, 3.19 g (100% yield). LC@215 nm; Rt 2.11: 93%, m/z (ES+): 259 (M+H).

reactant | Sodium hydride | 23.7 mmol, 0.96 g | [H-].[Na+]
reactant | cyclobutanemethanol | 23.7 mmol, 2.2 mL | C1(CCC1)CO | C5H10O
reactant | 2-amino-3,5-dibromopyrazine | 11.9 mmol, 3.0 g | NC1=NC=C(N=C1Br)Br | C4H3Br2N3
reactant | water | 2 mL | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-bromo-3-cyclobutylmethoxy-pyrazin-2-ylamine | 100% yield | BrC=1N=C(C(=NC1)N)OCC1CCC1 | C9H12BrN3O
